US08067448B2
(R)—N′-(4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-cyanobenzohydrazide
(R)-4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoic acid (840 mg, 2.19 mmol) and 4-cyanobenzohydrazide (329 mg, 2.41 mmol) were mixed together in THF (100 ml) and cooled to −15° C. under N2 atmosphere. To the pre-cooled reaction mixture were added hydroxybenzotriazole (HOBT) (296 mg, 2.19 mmol), TEA (0.458 mL, 3.29 mmol) followed by N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCI) (630 mg, 3.29 mmol). The reaction mixture was allowed to stir at −20° C. for 20 min and then at room temperature overnight. After the reaction was complete based on TLC, the urea was filtered off and the solution was washed with water, 5% citric acid followed by 5% NaHCO3 to provide the crude product as a yellow solid (0.95 g). Purification by flash column chromatography [EtOAc-hexanes (1:1) as eluent] afforded the title compound as a white crystalline solid (605 mg, 53%). 1H NMR (400 MHz, Acetone-d6, δ in ppm) 9.78 (br s, 2H), 8.03 (d, J=9 Hz, 2H), 7.87 (d, J=9 Hz, 2H), 7.48 (d, J=9 Hz, 1H), 6.63 (d, J=9 Hz, 1H), 5.87 (d, J=9 Hz, 1H), 4.40-4.34 (m, 1H), 4.03-3.82 (m, 2H), 2.31 (s, 3H), 2.29-2.04 (m, 2H), 0.81 (s, 9H), 0.1 (s, 3H) and 0.00 (s, 3H).

reactant | (R)-4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoic acid | 2.19 mmol, 840 mg | [Si](C)(C)(C(C)(C)C)OCC[C@H](C(=O)O)NC1=C(C(=C(C=C1)C#N)Cl)C | C18H27ClN2O3Si
reactant | 4-cyanobenzohydrazide | 2.41 mmol, 329 mg | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
reactant | hydroxybenzotriazole | 2.19 mmol, 296 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 3.29 mmol, 630 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (R)—N′-(4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-cyanobenzohydrazide | 605 mg, 53% | [Si](C)(C)(C(C)(C)C)OCC[C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=C(C(=C(C=C1)C#N)Cl)C | C26H32ClN5O3Si
